US05811406
Agmatine sulfate (100 mg, 0.438 mmol) was treated by tetramethylamonium hydroxide (158 mg, 0.876 mmol) in methanol (15 ml) for 1 h. The solvent was removed under reduced pressure. A suspension solution of the residue and cholesteryl chloroformate (197 mg, 0.438 mmol) in DMF (15 ml) was stirred at room temperature for 3 days. Filtration of the reaction mixture gave the crude product as a light yellow solid, which was purified by a silica gel column using chloroform-methanol-acetic acid (10:2:1) as eluent to yield the agmatinyl carboxycholesterol acetic acid salt as a white solid. 1H NMR (300 MHz, CD3OD): δ5.27 (broad s, 1 H), 4.65 (broad m, 1 H), 3.06 (t, 2 H), 2.99 (t, 2 H), 2.21 (broad d, 2 H), 1.95-0.65 (m, 31 H), 1.80 (s, 4 H), 0.91 (s, 3 H), 0.82 (d, 3 H), 0.76 (s, 3 H), 0.74 (s, 3 H), 0.59 (s, 3 H). LSIMS (NBA): m/e 543.4 for M+(C33H59N4O2).

reactant | Agmatine sulfate | 0.438 mmol, 100 mg | S(=O)(=O)(O)O.NC(NCCCCN)=N
reactant | tetramethylamonium hydroxide | 0.876 mmol, 158 mg | [OH-].C[N+](C)(C)C
reactant | cholesteryl chloroformate | 0.438 mmol, 197 mg | C[C@H](CCCC(C)C)[C@H]1CCC2[C@@]1(CCC3C2CC=C4[C@@]3(CCC(C4)OC(=O)Cl)C)C | C28H45ClO2
reactant | methanol | 15 ml | CO | CH4O
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | carboxycholesterol acetic acid salt | C(C)(=O)O.C(=O)(O)CC(C)CCC[C@@H](C)[C@H]1CC[C@H]2[C@@H]3CC=C4C[C@@H](O)CC[C@]4(C)[C@H]3CC[C@]12C | InChI=1S/C28H46O3.C2H4O2/c1-18(16-26(30)31)6-5-7-19(2)23-10-11-24-22-9-8-20-17-21(29)12-14-27(20,3)25(22)13-15-28(23,24)4;1-2(3)4/h8,18-19,21-25,29H,5-7,9-17H2,1-4H3,(H,30,31);1H3,(H,3,4)/t18?,19-,21+,22+,23-,24+,25+,27+,28-;/m1./s1
